US04764522
10.0% of pyridine-2-carboxylic acid were suspended in 150 ml of toluene and the suspension was heated to reflux for 2 hours with 17.7 ml of thionyl chloride and 3 drops of dimethylformamide. Thereafter, the mixture was evaporated to dryness under reduced pressure, the residue was treated with toluene and again evaporated to dryness. There was obtained picolinic acid chloride as dark green crystals which were used directly in the next step.

reactant | pyridine-2-carboxylic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | thionyl chloride | 17.7 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | picolinic acid chloride | N1=C(C=CC=C1)C(=O)Cl | C6H4ClNO
